US04395570
p-Hydroxybenzotrifluoride (0.22 g, 1.36 mmol), powdered potassium carbonate (0.185 g, 1.34 mmol), and methyl 5-chloro-2-nitrobenzoate (0.288 g, 1.34 mmol) were heated at 70° C. under a nitrogen atmosphere in 3 ml of dimethyl sulfoxide. After 50 minutes, an aliquot was quenched in methanolic HCl. (By gas chromatography, the reaction is 45% complete.) After 18 hours (overnight), the reaction mixture was cooled to room temperature, diluted with water, and extracted with ether. The organic extracts are shaken with brine, dried (MgSO4) and concentrated to afford methyl 5-(4-trifluoromethylphenoxy)-2-nitrobenzoate in 85% yield. Gas chromatography showed no starting phenol remained. Step B--Methyl 5-(2-chloro-4-trifluoromethylphenoxy) -2-nitrobenzoate

reactant | p-Hydroxybenzotrifluoride | 1.36 mmol, 0.22 g | OC1=CC=C(C=C1)C(F)(F)F | C7H5F3O
reactant | potassium carbonate | 1.34 mmol, 0.185 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 5-chloro-2-nitrobenzoate | 1.34 mmol, 0.288 g | ClC=1C=CC(=C(C(=O)OC)C1)[N+](=O)[O-] | C8H6ClNO4
solvent | dimethyl sulfoxide | 3 ml | CS(=O)C | C2H6OS
product | methyl 5-(4-trifluoromethylphenoxy)-2-nitrobenzoate | 85% yield | FC(C1=CC=C(OC=2C=CC(=C(C(=O)OC)C2)[N+](=O)[O-])C=C1)(F)F | C15H10F3NO5
